US07432275B2
5. Phosphoric acid mono-[4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl]ester
Dissolve phosphoric acid dibenzyl ester 4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl ester (225 mg, 0.316 mmol) in methanol and add 10% palladium on carbon (218 mg). Stir the solution for 2 hours under 1 atmosphere of hydrogen gas. Filter the solution through celite and wash through with additional methanol. Concentrate under reduced pressure and triturate with ether to yield the desired product as a yellow solid.

reactant | phosphoric acid dibenzyl ester 4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl ester | 0.316 mmol, 225 mg | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F)COP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C39H36F3N4O4P
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 218 mg | [Pd] | Pd
product | Phosphoric acid mono-[4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl]ester | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F)COP(O)(O)=O | C25H24F3N4O4P
